US05371096
To a solution of 32.7g (0.15 mole) of ethyl t-butyldimethylsilyloxyacetate in 924 ml of methylene chloride a solution of 1M diisopropylaluminum hydride in methylene chloride is added dropwise with stirring at -78° C. over a period of 1/2 h. The mixture is stirred for 45 min and 100 ml of methanol is added dropwise. The mixture is diluted with 3 l of ether, 100 ml of brine and 70 g of sodium sulfate are added and the mixture is stirred at room temperature for 15 h. The solids are filtered, the filtrates are evaporated and the residue is distilled to give t-butyldimethylsilyloxyacetaldehyde, b.p. 65°-75° C. (14 mm/Hg).

reactant | ethyl t-butyldimethylsilyloxyacetate | 0.15 mole, 32.7g | [Si](C)(C)(C(C)(C)C)OCC(=O)OCC | C10H22O3Si
reactant | diisopropylaluminum hydride | 1M | [H-].C(C)(C)[Al+]C(C)C
reactant | methanol | 100 ml | CO | CH4O
reactant | sodium sulfate | 70 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 924 ml | C(Cl)Cl | CH2Cl2
solvent | ether | 3 l | CCOCC | C4H10O
solvent | brine | 100 ml | [Cl-].[Na+].O
product | t-butyldimethylsilyloxyacetaldehyde | [Si](C)(C)(C(C)(C)C)OCC=O | C8H18O2Si
